US06303620B1
To a solution of 2-tert-butoxycarbonylamino-3-(1H-indole-3-yl)propionic acid (0.37 g, 1.2 mmol) in methylene chloride (15 ml) and dimethylformamid (5 ml) was added 1-hydroxy-7-azabenzotriazole (0.16 mg, 1.20 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.23 9, 1.20 mmol) and the mixture was stirred for 30 min. Then 4-benzylpiperidine-4-carboxylic acid N′,N′-dimethylhydrazide (0.26g, 1.0 mmol) and diisopropylethylamine (0.69 ml, 4.0 mmol) was added and the mixture was stirred overnight. Methylene chloride (100 ml) was added and the mixture was washed with saturated aqueous sodium hydrogencarbonate (20 ml), water (20 ml), dried (MgSO4), filtered and concentrated in vacuo. The obtained oil was chromatographed on silica (40 g) with methylene chloride/(10% ammonia in methanol) (9:1) to give 0.43 g of (2-(4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidine-1-yl)-1-(1H-indole-3-ylmethyl)-2-oxoethyl)carbamic acid tert-butyl ester as a colorless oil.

reactant | 2-tert-butoxycarbonylamino-3-(1H-indole-3-yl)propionic acid | 1.2 mmol, 0.37 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CNC2=CC=CC=C12 | C16H20N2O4
reactant | 1-hydroxy-7-azabenzotriazole | 1.20 mmol, 0.16 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.20 mmol | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-benzylpiperidine-4-carboxylic acid N′,N′-dimethylhydrazide | 1.0 mmol, 0.26g | CN(NC(=O)C1(CCNCC1)CC1=CC=CC=C1)C | C15H23N3O
reactant | diisopropylethylamine | 4.0 mmol, 0.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamid | 5 ml | CN(C=O)C | C3H7NO
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (2-(4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidine-1-yl)-1-(1H-indole-3-ylmethyl)-2-oxoethyl)carbamic acid tert-butyl ester | 0.43 g | C(C)(C)(C)OC(NC(C(=O)N1CCC(CC1)(C(=O)NN(C)C)CC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O | C31H41N5O4
